US05459137
(-)-1-(4-Nitrophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
A solution of (S)-(-)-2-amino-3-methyl-1,1-diphenylbutan-1-ol (4.75 g) in dry methylene chloride was cooled to -70° C. and treated with a solution of borane in THF (1.8M, 9.5 ml) over a 20 minute period under an atmosphere of dry nitrogen. The resulting solution was gradually warmed to 0° C. and allowed to stand overnight at 4° C. This mixture was treated with a solution of 1-(4-nitrophenyl)-4-methyl-7.8-methylenedioxy-5H-2,3-benzodiazepine (5.0 g) in dry methylene chloride (100 ml) at room temperature over a period of about 1 hour. The resulting solution was allowed to stand at room temperature for seven days. The reaction was quenched by the addition of 10% sodium carbonate (15 ml). The resulting phases were separated, and the organic layer washed with water (2×50 ml), dried ever sodium sulfate, and concentrated in vacuo to give a yellow crystalline solid. This solid was suspended in ethanol (50 ml), filtered, and dried to give 4.47 g of the title compound. Proton NMR spectroscopy using a shift reagent (Eu(hfc)3) shows the product as 90:10 mixture of enantiomers. This material was dissolved in hot ethyl acetate (24 ml) and allowed to stand at room temperature overnight. The crystalline precipitate was separated by filtration, washed with ethyl acetate (3×5 ml), and dried to give 2.87 g of the title compound. Proton NMR spectroscopy using a shift reagent (Eu(hfc)3) shows this material to have an enantiomeric purity of more than 98%. Melting point 171°-172.5° C.

reactant | (S)-(-)-2-amino-3-methyl-1,1-diphenylbutan-1-ol | 4.75 g | N[C@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | C17H21NO
reactant | borane | B | BH3
reactant | 1-(4-nitrophenyl)-4-methyl-7.8-methylenedioxy-5H-2,3-benzodiazepine | 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H13N3O4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 1.8M, 9.5 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (-)-1-(4-Nitrophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 4.47 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O4
